US08039463B2
Triethyl orthoformate (2.93 g, 19.8 mmol) was added to a stirred solution of N-hydroxy-4-nitro-benzamidine (1.2 g, 6.6 mmol) in THF (15 mL). The mixture was cooled to 0° C. and boron triflouride dimethyl ether (900 mg, 7.9 mmol) was added drop wise. The mixture was maintained at room temperature for three hours. The volatiles were evaporated and the residue was washed with ether and dried to afford 650 mg (55%) of 3-(4-nitro-phenyl)-[1,2,4]oxadiazole.

reactant | Triethyl orthoformate | 19.8 mmol, 2.93 g | C(OCC)(OCC)OCC | C7H16O3
reactant | N-hydroxy-4-nitro-benzamidine | 6.6 mmol, 1.2 g | ONC(C1=CC=C(C=C1)[N+](=O)[O-])=N | C7H7N3O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(4-nitro-phenyl)-[1,2,4]oxadiazole | 650 mg, 55% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NOC=N1 | C8H5N3O3
